US09212182B2
(E)-Ethyl 3-(5-(benzylthio)-2-iodophenyl)acrylate (0.225 g, 0.265 mmol) was added to a vial and dissolved in acetonitrile (2.494 ml). Acetic acid (0.095 ml) and water (0.062 ml) were added and the vial was cooled to 0° C. 1,3-dichloro-5,5-dimethylhydantoin (0.057 g, 0.292 mmol) was then added as a solid in one portion while 0° C. was maintained. After 20 min. LC/MS showed mass corresponding to sulfoxide (mono-oxidation) along with sulfonyl chloride. After 1 hr. an additional 0.2 equiv (10 mg) of hydantoin was added. After an additional 20 min. the oxidation was complete. Solid sodium bisulfite was added and the reaction was diluted with EtOAc and water and stirred for 5 min. The organic layer was separated, the aq. re-extracted 2× with EtOAc, and the organic layers combined. After washing with brine, drying with Na2SO4, and concentrating, the crude residue was brought up in 1.5 mL of DCM and treated with 3-aminoisoxazole (0.039 ml, 0.530 mmol) and pyridine (0.107 ml, 1.326 mmol) After 45 min, the reaction was poured into 1N HCl and extracted 2× with EtOAc. The combined organics were washed with brine, dried over Na2SO4, and concentrated to give an orange solid that was purified by MPLC (25 g puriflash, 25-85% EtOAC:Heptanes) to give (E)-ethyl 3-(2-iodo-5-(N-(isoxazol-3-yl)sulfamoyl)phenyl)acrylate (0.043 g, 0.096 mmol, 36.2% yield) as a white solid. m/z (ESI) 447.0 (M−H)−.

reactant | (E)-Ethyl 3-(5-(benzylthio)-2-iodophenyl)acrylate | 0.265 mmol, 0.225 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)I | C18H17IO2S
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 0.292 mmol, 0.057 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | hydantoin | 10 mg, 0.2 equiv | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | 3-aminoisoxazole | 0.530 mmol, 0.039 ml | NC1=NOC=C1 | C3H4N2O
reactant | pyridine | 1.326 mmol, 0.107 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 2.494 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | water | 0.062 ml | O | H2O
solvent | Acetic acid | 0.095 ml | C(C)(=O)O | C2H4O2
product | (E)-ethyl 3-(2-iodo-5-(N-(isoxazol-3-yl)sulfamoyl)phenyl)acrylate | 0.096 mmol, 0.043 g, 36.2% yield | IC1=C(C=C(C=C1)S(NC1=NOC=C1)(=O)=O)/C=C/C(=O)OCC | C14H13IN2O5S
